US08003649B2
Preparation of ethyl 3-(pyridin-4-yl)benzoate
Obtained in 92% yield by an analogous procedure to Example 605, starting from 4-bromopyridine hydrochloride and 3-(ethoxycarbonyl)phenylboronic acid.

reactant | 4-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
reactant | 3-(ethoxycarbonyl)phenylboronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | ethyl 3-(pyridin-4-yl)benzoate | 92% yield | N1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CC1 | C14H13NO2
